US07659401B2
(2-Methyl-7-pyridin-3-yl-thiazolo[4,5-c]pyridin-4-yl)-(4-methyl-thiazol-2-yl)-amine
The title compound, MS: m/e=340.1 (M+H+), was prepared in accordance with the general method of example 2, step 2 from 4-chloro-2-methyl-7-pyridin-3-yl-thiazolo[4,5-c]pyridine and 2-amino-4-methylthiazole.

reactant | 4-chloro-2-methyl-7-pyridin-3-yl-thiazolo[4,5-c]pyridine | ClC1=NC=C(C2=C1N=C(S2)C)C=2C=NC=CC2 | C12H8ClN3S
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | (2-Methyl-7-pyridin-3-yl-thiazolo[4,5-c]pyridin-4-yl)-(4-methyl-thiazol-2-yl)-amine | CC=1SC2=C(C(=NC=C2C=2C=NC=CC2)NC=2SC=C(N2)C)N1 | C16H13N5S2
